US07312330B2
A. (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amine
7-Benzyl-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amine(700 mg, 1.8 mmol) was dissolved in methanol (25 mL) and palladium hydroxide was added (150 mg, 20% wt). The mixture was shaken on a Parr Shaker under H2(g) atmosphere (60 PSI) for 24 hours. The mixture was filtered through celite and evaporated to give 480 mg of material as a white solid, which was used as such for the next step.

reactant | 7-Benzyl-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amine | 1.8 mmol, 700 mg | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC2=C(OCCO2)C=C1 | C22H22N4O2
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | (2,3-Dihydro-benzo[1,4]dioxin-6-yl)-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yl)-amine | 480 mg | O1CCOC2=C1C=CC(=C2)NC=2C1=C(N=CN2)CNCC1 | C15H16N4O2
